2143-03-29 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: mastocytosis
   24 Hour Events:
   - Transferred to MICU for mastocytosis flare
   - received benadryl, solumedrol, zofran, phenergan
   - persistently tachy
   Allergies:
   Aspirin
   Nausea/Vomiting
   Iodine
   Nausea/Vomiting
   Nsaids
   exacerbates mas
   Opioid Analgesics
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2143-3-28**] 09:09 PM
   Lorazepam (Ativan) - [**2143-3-29**] 02:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-3-29**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 123 (104 - 141) bpm
   BP: 129/88(97) {126/60(76) - 154/105(115)} mmHg
   RR: 21 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    753 mL
                                                                  1,031 mL
   PO:
             TF:
   IVF:
                                                                    753 mL
                                                                  1,031 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    350 mL
   Urine:
                                                                    200 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    553 mL
                                                                    681 mL
   Respiratory support
   SpO2: 100%
   ABG: ////
   Physical Examination
   GEN: NAD, awake, alert
   HEENT: EOMI, PERRL 9->5, sclera anicteric, conjunctivae clear, pale, OP
   moist and without lesion
   NECK: Supple, no JVD, no LAD
   CV: tachycardic, normal S1, S2. No m/r/g.
   CHEST: Resp were unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi.
   ABD: Protuberent, Soft, ND, no HSM.  Mild TTP epigastric, RUQ, LUQ,
   negative murphys.  No rebound/guarding.
   EXT: No c/c/e, 2+ radian and PT pulses
   SKIN: moderate diffuse erythema
   Neuro: no focal findings, AOx3
   Labs / Radiology
   318
   0.9
   23
   4.1
   8
   106
   141
   35.2
   12
        [image002.jpg]
   Assessment and Plan
   28 yo F with systemic mastocytosis with symptoms consistent with past
   mystocytosis flares.
   .
   # Systemic mastocytosis: Symptoms typical of her past flares, very
   likely related to her aspirin challenge.  She is on multiple
   antihistamines and antiemetics.  Dr. [**Last Name (STitle) **] from allergy involved
   (appreciate involvement), recommends low dose aspirin given her
   tolerance of the lower doses and her high prostaglandin levels.
   - aspirin 162 qday if tolerated
   - Solumedrol 125mg IV Q8H  - try to wean later today
   - Diphenhydramine 50mg IV Q4H
   - prn zofran, phenergan, or zyprexa
   - Ranitidine 150 mg Q12H
   - Hydroxyzine 50 [**Hospital1 **]
   - Oral doxepin, gastrocrom, singulaire, zyrtec
   - reserve epi for angioedema/anaphylaxis.
   - increase cromolyn to 250 qid
   - change IM medications back to IV now she has IV access
   .
   # Tachycardia: likely from underlying mastocytosis flare.
   - treat as above
   - fluid
   .
   # fluid status:  could be relatively volume down from vasodilation,
   which could contribute to her tachycardia.
   - IVF at maintenance 125cc/hr
   .
   # coffee ground emesis: mild coffee ground emesis, slightly guaiac
   positive.  Known gastritis, may have [**Doctor First Name 1856**]-[**Doctor Last Name **] tear from vomiting
   as well.
   - monitor HCT
   - cont h2 blocker
   - trend hematocrit
   .
   # Abdominal pain/reflux: significant aspirin doses today and known
   gastritis.
   - cont H2 blocker
   - add lidocaine/maalox prn
   - may need repeat EGD here or as outpt
   .
   # Anxiety:
   - prn ativan
   .
   # FEN: clears, ADAT. replete lytes prn
   .
   # Access: PIV
   .
   # PPx: heparin SC, H2 blocker, bowel regimen
   .
   # Code: FULL
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2143-3-28**] 08:06 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2143-03-29 10:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28 y/o f with systemic mastocytosis p/w flushing, n/v, abd pain, went
   to ED. Got benadryl, solumedrol, pepcid, and tylenol in ED, initially
   improved and admitted to medicine. Dr. [**Last Name (STitle) **] consulted from allergy.
   ASA desensitization started and symptoms worsened. Given solumedrol,
   phenergan, benadryl. Also developed chest pain/palpitations.
   On arrival to ICU was slightly tachycardic. Got
   benadryl/solumedrol/ativan/zofran since being here.
   24 Hour Events:
   Recieved ongoing solumedrol 125 mg IV q8h, benadryl, hydroxyzine,
   singulair, pepcid,phenergan overnight. No further CP. Having
   n/v/flushing, slight abd pain.
   Allergies:
   Aspirin
   Nausea/Vomiting
   Iodine
   Nausea/Vomiting
   Nsaids
   exacerbates mas
   Opioid Analgesics
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2143-3-28**] 09:09 PM
   Lorazepam (Ativan) - [**2143-3-29**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-3-29**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 118 (104 - 141) bpm
   BP: 131/76(87) {126/60(76) - 154/105(193)} mmHg
   RR: 21 (16 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    753 mL
                                                                  2,127 mL
   PO:
             TF:
   IVF:
                                                                    753 mL
                                                                  2,127 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    600 mL
   Urine:
                                                                    200 mL
                                                                    500 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                    553 mL
                                                                  1,527 mL
   Respiratory support
   SpO2: 99%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, pale
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: PPP
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: epigastric and RLQ, no
   rebound
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
        reviewed
   Assessment and Plan
 NAUSEA / VOMITING
   28 y/o f with flare of systemic mastocytosis, admitted for aspirin
   desensitization, complicated by severe flushing, N/V and tachycardia
   after 325 mg dose.
   1. mastocytosis:
   -Bendryl 50 mg q4h
   -hydroxyzine 50 mg qid
   -solumedrol 125 mg IV q8h, reassess dose later today
 would decrease
   60 mg q8h if stable
   -ranitidine 150 mg q12h
   -singulair 10 mg daily
   -phenergan tid and zofran prn
   -no evidence of angioedema
   -consider ASA 162mg standing later if she can tolerate pos
   -d/c ativan standing
   -cromolyn 250 mg qid
   - appreciate very much Dr [**Last Name (STitle) 8242**]
s input and recommendations
   2. Chest pain: Seems to be GERD/esophagitis from constant vomiting
   -cont. H2 blocker
   -follow hct, stable
   3. FEN: Dry from vomiting and poor pos
   -maintenance IVF at 125 cc/h
   4. anxiety: ativan prn
   5. FEN: Clears
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  patient updated.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2143-03-30 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: mastocytosis
   24 Hour Events:
   - Recommended to retrial ASA 162 mg daily by Allergy consult
   - Patient with recurrent flushig mid-day; refused ASA
   - Steroid dose tapered to Solumedrol 80 mg TID
   - Diet advanced.
   Allergies:
   Aspirin
   Nausea/Vomiting
   Iodine
   Nausea/Vomiting
   Nsaids
   exacerbates mas
   Opioid Analgesics
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-3-30**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 62 (57 - 118) bpm
   BP: 124/73(84) {121/64(78) - 153/99(108)} mmHg
   RR: 19 (16 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  4,219 mL
                                                                  1,082 mL
   PO:
                                                                    500 mL
                                                                     90 mL
   TF:
   IVF:
                                                                  3,719 mL
                                                                    992 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                      0 mL
   Urine:
                                                                  1,150 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  2,869 mL
                                                                  1,082 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   28 yo F with systemic mastocytosis with symptoms consistent with past
   mystocytosis flares.
   .
   # Systemic mastocytosis: Symptoms typical of her past flares, very
   likely related to her aspirin challenge.  She is on multiple
   antihistamines and antiemetics.  Dr. [**Last Name (STitle) **] from allergy involved
   (appreciate involvement), recommends low dose aspirin given her
   tolerance of the lower doses and her high prostaglandin levels.
   - aspirin 162 qday if tolerated
   - Solumedrol 125mg IV Q8H  - try to wean later today
   - Diphenhydramine 50mg IV Q4H
   - prn zofran, phenergan, or zyprexa
   - Ranitidine 150 mg Q12H
   - Hydroxyzine 50 [**Hospital1 **]
   - Oral doxepin, gastrocrom, singulaire, zyrtec
   - reserve epi for angioedema/anaphylaxis.
   - increase cromolyn to 250 qid
   - change IM medications back to IV now she has IV access
   .
   # Tachycardia: likely from underlying mastocytosis flare.
   - treat as above
   - fluid
   .
   # fluid status:  could be relatively volume down from vasodilation,
   which could contribute to her tachycardia.
   - IVF at maintenance 125cc/hr
   .
   # coffee ground emesis: mild coffee ground emesis, slightly guaiac
   positive.  Known gastritis, may have [**Doctor First Name 1856**]-[**Doctor Last Name **] tear from vomiting
   as well.
   - monitor HCT
   - cont h2 blocker
   - trend hematocrit
   .
   # Abdominal pain/reflux: significant aspirin doses today and known
   gastritis.
   - cont H2 blocker
   - add lidocaine/maalox prn
   - may need repeat EGD here or as outpt
   .
   # Anxiety:
   - prn ativan
   .
   # FEN: clears, ADAT. replete lytes prn
   .
   # Access: PIV
   .
   # PPx: heparin SC, H2 blocker, bowel regimen
   .
   # Code: FULL
   .
   # Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2143-3-29**] 09:11 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-03-30 10:06:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
    28 y/o f with systemic mastocytosis, frequent flares, here with
   typical flare consisting of flushing, n/v/abd pain, palpitations. Had
   been getting ASA desens on floor, seemed to worsen after 325 mg dose of
   ASA. Allergy following her and rec still cont 162 mg ASA daily if she
   can take pos. We held off on ASA given continued flushing and patient
   refusal. NO angioedema however, and has not recieved epi. Current tx:
   solumedrol/H2B/benadryl/hydroxyzine/singulair.
   24 Hour Events:
   Allergy rec ASA 162 mg, although patient refused. Solumedrol tapered to
   80 mg tid. Still had a few flushing episodes.
   Allergies:
   Aspirin
   Nausea/Vomiting
   Iodine
   Nausea/Vomiting
   Nsaids
   exacerbates mas
   Opioid Analgesics
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-3-30**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 59 (57 - 108) bpm
   BP: 125/76(87) {121/64(78) - 153/99(108)} mmHg
   RR: 19 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  4,219 mL
                                                                  1,315 mL
   PO:
                                                                    500 mL
                                                                     90 mL
   TF:
   IVF:
                                                                  3,719 mL
                                                                  1,225 mL
   Blood products:
   Total out:
                                                                  1,350 mL
                                                                    750 mL
   Urine:
                                                                  1,150 mL
                                                                    750 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  2,869 mL
                                                                    565 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   207 K/uL
   29.7 %
   14.7 K/uL
        [image002.jpg]
                             [**2143-3-30**]  09:00 AM
   WBC
   14.7
   Hct
   29.7
   Plt
   207
   Assessment and Plan
 NAUSEA / VOMITING
   28 y/o f with systemic mastocytosis here with a flare.
   1. mastocytosis flare:
   -change to 60 mg po pred
   -cont. antihistamines/singular/H2B
   -f/u with allergy re: ASA recs
   2. Tachycardia: resolved with mastocytosis tx
   -place another PIV
   -d/c standing IVF
   3. esophagitis: [**3-4**] vomiting
   -cont. H2B and magic mouthwash
   -cont. antiemetics
   4. FEN: clears, ADAT
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2143-3-29**] 09:11 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2143-03-31 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: mastocytosis
   24 Hour Events:
   - Dr.[**Last Name (STitle) 8242**] to see her today to discuss aspirin
   - patient was called out, however had another flare, prednisone was
   changed back to solumedrol, patient was kept in ICU overnight for close
   monitoring
   Allergies:
   Aspirin
   Nausea/Vomiting
   Iodine
   Nausea/Vomiting
   Nsaids
   exacerbates mas
   Opioid Analgesics
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-3-31**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 54 (53 - 106) bpm
   BP: 154/88(103) {125/75(87) - 154/94(107)} mmHg
   RR: 24 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 69 Inch
             Total In:
                                                                  1,764 mL
                                                                     78 mL
   PO:
                                                                     90 mL
             TF:
   IVF:
                                                                  1,674 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    550 mL
   Urine:
                                                                  1,450 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    314 mL
                                                                   -472 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///17/
   Physical Examination
   GEN: nad
   Heent: ncat, mmm
   Pulm: ctab, no w/r/r
   Cv: hrrr, no m/r/g
   Abd: s/nt/nd/nabs
   Extr: no c/c/e
   Skin: no flushing/erythema
   Labs / Radiology
   207 K/uL
   9.9 g/dL
   89 mg/dL
   0.5 mg/dL
   17 mEq/L
   2.8 mEq/L
   14 mg/dL
   119 mEq/L
   145 mEq/L
   29.7 %
   14.7 K/uL
        [image002.jpg]
                             [**2143-3-30**]  09:00 AM
   WBC
   14.7
   Hct
   29.7
   Plt
   207
   Cr
   0.5
   Glucose
   89
   Assessment and Plan
   28 yo F with systemic mastocytosis with symptoms consistent with past
   mystocytosis flares.
   # Systemic mastocytosis: Symptoms typical of her past flares, very
   likely related to her aspirin challenge.  She is on multiple
   antihistamines and antiemetics.  low dose aspirin recommended yesterday
   given her tolerance of the lower doses and her high prostaglandin
   levels, though not given because of continued flushing and patient
   reluctance.  Now tolerating PO.  Experienced more flushing yesterday,
   steroids increased to solumedrol 80 TID and she stayed in ICU for
   monitoring. Dr. [**Last Name (STitle) 8242**] is to discuss ASA with her today.
   - Dr. [**Last Name (STitle) 8242**] recs
   - cont solumedrol 80 TID for now
   - Diphenhydramine 50mg IV Q4H
   - prn zofran, phenergan, or zyprexa
   - Ranitidine 150 mg Q12H
   - Hydroxyzine 50 [**Hospital1 **]
   - Oral doxepin, gastrocrom, singulaire, zyrtec
   - reserve epi for angioedema/anaphylaxis.
   - cont cromolyn to 250 qid
   .
   # Tachycardia: likely from underlying mastocytosis flare.  Improved
   with treatment of flare
   - follow
   .
   # fluid status:  could be relatively volume down from vasodilation,
   which could contribute to her tachycardia. Improved
   - taking PO
   .
   # coffee ground emesis: mild coffee ground emesis, slightly guaiac
   positive.  Known gastritis, may have [**Doctor First Name 1856**]-[**Doctor Last Name **] tear from vomiting
   as well.  No further vomiting.
   - monitor HCT
   - cont h2 blocker
   - outpatient EGD
   .
   # Abdominal pain/reflux: significant aspirin doses today and known
   gastritis.
   - cont H2 blocker
   - cont lidocaine/maalox prn
   - may need repeat EGD as outpt
   .
   # Anxiety:
   - prn ativan
   .
   # FEN: ADAT. replete lytes prn
   .
   # Access: PIV, needs another
   .
   # PPx: heparin SC, H2 blocker, bowel regimen
   .
   # Code: FULL
   .
   # Dispo: call-out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2143-3-29**] 09:11 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer:  h2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-03-31 10:44:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   28 y/o f with systemic mastocytosis, frequent flares, here with typical
   flare consisting of flushing, n/v/abd pain, palpitations. Had been
   getting ASA desens on floor, seemed to worsen after 325 mg dose of ASA.
   Allergy following her and rec still cont 162 mg ASA daily if she can
   take pos. We have been holding off as she continues to have flushing
   and patient is refusing. NO angioedema however, and has not recieved
   epi. Current tx: solumedrol/H2B/benadryl/hydroxyzine/singulair. Kept in
   ICU [**3-30**] due to another flushing flare, going to the floor
   today.
   24 Hour Events:
   Remained in ICU for episode of flushing, nausea, palpitations. Dr.
   [**Last Name (STitle) 8242**] will see her today to discuss ASA.
   Allergies:
   Aspirin
   Nausea/Vomiting
   Iodine
   Nausea/Vomiting
   Nsaids
   exacerbates mas
   Opioid Analgesics
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-3-31**] 10:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.4
C (97.5
   HR: 56 (44 - 106) bpm
   BP: 153/81(99) {136/75(90) - 154/89(104)} mmHg
   RR: 26 (15 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  1,764 mL
                                                                    105 mL
   PO:
                                                                     90 mL
             TF:
   IVF:
                                                                  1,674 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    900 mL
   Urine:
                                                                  1,450 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    314 mL
                                                                   -795 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   243 K/uL
   125 mg/dL
   0.7 mg/dL
   21 mEq/L
   4.1 mEq/L
   16 mg/dL
   109 mEq/L
   141 mEq/L
   31.8 %
   13.8 K/uL
        [image002.jpg]
                             [**2143-3-30**]  09:00 AM
                             [**2143-3-31**]  08:45 AM
   WBC
   14.7
   13.8
   Hct
   29.7
   31.8
   Plt
   207
   243
   Cr
   0.5
   0.7
   Glucose
   89
   125
   Other labs: PT / PTT / INR:16.1/24.3/1.4, Ca++:9.0 mg/dL, Mg++:2.2
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 NAUSEA / VOMITING
   Systemic mastocytosis flare.
   1. Mastocytosis:
   -cont. solumedrol/H2B/antihistamines/singulair
   -to discuss ASA with Dr. [**Last Name (STitle) 8242**] today
   -cont. prn antiemetics
   2. esophagitis: [**3-4**] vomiting
   -cont. magic mouthwash
   3. FEN: ADAT
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2143-3-29**] 09:11 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes